US07105563B2
A solution of 5-cyano-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one (100 mg, 0,42 mmol) in toluene was treated with tributyltin hydride (0.68 g, 2.1 mmol) and NaN3 (0.39 g, 2.52 mmol). The reaction mixture was refluxed overnight. Concentration afforded a residue which was dissolved in methanol and left at ambient temperature overnight. An orange-colored solid formed, which was filtered and dried in vacuo to afford 5-tetrazol-5-yl-3-[(pyrrol-2-yl)methylene]indolin-2-one; (29 mg) as an orange solid; 1H NMR (400 MHz, DMSO-d6) δ 6.22 (s, 1H), 6.90 (s, 1H), 7.08 (d, 1H), 7.20 (s, 1H), 7.80 (m, 1H), 7.84 (s, 1H), 8.14 (s, 1H), 11.22 (s, 1H) ppm.

reactant | 5-cyano-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one | 0,42 mmol, 100 mg | C(#N)C=1C=C2C(C(NC2=CC1)=O)=C(C)C=1NC=CC1 | C15H11N3O
reactant | tributyltin hydride | 2.1 mmol, 0.68 g | C(CCC)[SnH](CCCC)CCCC
reactant | NaN3 | 2.52 mmol, 0.39 g | [N-]=[N+]=[N-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 5-tetrazol-5-yl-3-[(pyrrol-2-yl)methylene]indolin-2-one | N1N=NN=C1C=1C=C2C(C(NC2=CC1)=O)=CC=1NC=CC1 | C14H10N6O
